US04211548
Ethyl-N-[bis(isopropylthio)phosphinothioylmethyl]-N-(benzyloxycarbonyl)glycine (4.0 g.) was dissolved in 10 ml. of 35% hydrobromic acid in acetic acid for one hour. Diethyl ether was added and a viscous oil precipitated. The ether was decanted and the precipitate washed with diethyl ether an additional three times. The precipitate was dissolved in acetonitrile and excess propylene oxide added. After about 5 minutes, the solution was concentrated in vacuo to yield ethyl-N-[bis(isopropylthio)phosphinothioylmethyl]glycine (0.95 g.) as an oil, ND25 =1.5524. The compound gave the following analysis.

reactant | Ethyl-N-[bis(isopropylthio)phosphinothioylmethyl]-N-(benzyloxycarbonyl)glycine | 4.0 g | C(C)C(N(C(=O)OCC1=CC=CC=C1)CP(=S)(SC(C)C)SC(C)C)C(=O)O | C19H30NO4PS3
reactant | hydrobromic acid | Br | BrH
reactant | Diethyl ether | C(C)OCC | C4H10O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | ethyl-N-[bis(isopropylthio)phosphinothioylmethyl]glycine | 0.95 g | C(C)N(CC(=O)O)CP(=S)(SC(C)C)SC(C)C | C11H24NO2PS3
